US08541588B2
5-Chloro-N-(2,4-dimethoxybenzyl)-2,4-difluoro-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide
To a solution of (N-(2,4-dimethoxybenzyl)-1,2,4-thiadiazol-5-amine (Preparation 14, 40.6 g, 0.1619 mol) in anhydrous tetrahydrofuran (600. mL), cooled to −70° C., under nitrogen was added lithium 1,1,1,3,3,3-hexamethyldisilazan-2-ide (1 M in tetrahydrofuran, 161.9 mL, 0.161.9 mol) drop wise. The reaction mixture was warmed to room temperature and stirred for 1 hour before cooling to −70° C. A solution of 5-chloro-2,4-difluorobenzenesulfonyl chloride (40 g, 0.1619 mol) in tetrahydrofuran (200.0 mL) was added dropwise. After complete addition, the reaction mixture was gradually warmed to room temperature and stirred for 1 hour. Reaction mixture was quenched with saturated aqueous ammonium chloride solution and extracted with ethyl acetate. Organic layer was washed with water and saturated aqueous sodium chloride solution. Crude residue was purified by column chromatography eluting with ethyl acetate:hexane (gradient 1:19 to 3:17, by volume) to afford the title compound as a white solid, 46 g.

reactant | N-(2,4-dimethoxybenzyl)-1,2,4-thiadiazol-5-amine | 0.1619 mol, 40.6 g | COC1=C(CNC2=NC=NS2)C=CC(=C1)OC | C11H13N3O2S
reactant | lithium 1,1,1,3,3,3-hexamethyldisilazan-2-ide | 1 M, 161.9 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 5-chloro-2,4-difluorobenzenesulfonyl chloride | 0.1619 mol, 40 g | ClC=1C(=CC(=C(C1)S(=O)(=O)Cl)F)F | C6H2Cl2F2O2S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200.0 mL | O1CCCC1 | C4H8O
product | 5-Chloro-N-(2,4-dimethoxybenzyl)-2,4-difluoro-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | ClC=1C(=CC(=C(C1)S(=O)(=O)N(C1=NC=NS1)CC1=C(C=C(C=C1)OC)OC)F)F | C17H14ClF2N3O4S2
